US08138197B2
Methyl 4-(2-methyl-1,3-oxazol-5-yl)-3,5-dimethoxybenzoate
Methyl 4-(aminoacetyl)-3,5-dimethoxybenzoate hydrochloride was dissolved in triethyl orthoacetate, paratoluenesulfonic acid monohydrate (10 mg) was added to it, and stirred at 140° C. for 6 hours. The reaction liquid was cooled to room temperature, then triethyl orthoacetate was evaporated away under reduced pressure, and the residue was purified through silica gel column chromatography (hexane/ethyl acetate=100/0 to 30/70) to obtain the title compound.

reactant | Methyl 4-(aminoacetyl)-3,5-dimethoxybenzoate hydrochloride | Cl.NCC(=O)C1=C(C=C(C(=O)OC)C=C1OC)OC
reactant | triethyl orthoacetate | C(C)(OCC)(OCC)OCC | C8H18O3
product | Methyl 4-(2-methyl-1,3-oxazol-5-yl)-3,5-dimethoxybenzoate | CC=1OC(=CN1)C1=C(C=C(C(=O)OC)C=C1OC)OC | C14H15NO5
